US03994871
1. Trt-Cys(Trt)-Cys(Acm)-OMe
7.0 g of Trt-Cys(Trt)-OSu and 2.0 g of H-Cys(Acm)-OMe in 50 ml of chloroform are left to stand for 20 hours at room temperature. The solution is then diluted with 100 ml of chloroform and washed with 1 N citric acid, 1 N sodium bicarbonate and water, dried over sodium sulphate and evaporated. The residue is recrystallised from ethyl acetate-ether. Melting point 197°-198°C.

reactant | Trt-Cys(Trt)-OSu | 7.0 g | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)ON1C(=O)CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H38N2O4S
reactant | H-Cys(Acm)-OMe | 2.0 g | N[C@@H](CSCNC(=O)C)C(=O)OC | C7H14N2O3S
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Trt-Cys(Trt)-Cys(Acm)-OMe | N([C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)N[C@@H](CSCNC(=O)C)C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H47N3O4S2
